datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:6])([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[H:17].[O:18][H:19]>>[C:0]1([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[H:17].[H:6][O:18][H:19],-4.24676
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]=[C:8]([C:9]([H:13])([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7](=[C:6]([H:11])[H:12])[C:8]([C:9]([H:13])([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])[H:3],39.999
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([S:14][H:25])([c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:24])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:24])[H:5].[C:12]([C:13]([S:14][H:25])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:21])([H:22])[H:23],9.6232
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8](=[S:9])[H:12])([H:10])[H:11]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:7]([C:8](=[S:9])[H:12])([H:10])[H:11],62.76
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:19]([C:18]([H:21])([H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])[H:8],12.6357
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[C:6]([H:18])[H:19])[H:17])[H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[C:5]1([C:6]([H:18])[H:19])[H:17],18.828
[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16].[C:17]([H:18])([H:19])[H:20]>>[C:0]1([H:9])([C:17]([H:18])([H:19])[H:20])[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16],24.547528
[C:0]1([H:6])([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[H:17].[O:18]>>[C:0]1([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[H:17].[H:6][O:18],8.811504
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([c:6]1[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]1[H:18])([H:12])[H:13]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5]([c:6]1[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]1[H:18])([H:12])[H:13],87.864
[H:5].[O:0]=[C:1]([S:2][H:4])[H:3]>>[O:0]=[C:1][H:3].[S:2]([H:4])[H:5],13.1378
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][O:5])[H:9])[H:8])([H:6])[H:7]>>[C:0](=[C:1]([C:2](=[C:3]([H:11])[H:12])[H:9])[H:8])([H:6])[H:7].[O:4][O:5][H:10],101.449
[H:5].[O:0]([C:1](=[S:2])[H:4])[H:3]>>[O:0]([C:1]([S:2])([H:4])[H:5])[H:3],11.3386
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[H:14]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[H:14])[H:8])([H:6])[H:7],3.84928
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]=[C:11]([H:14])[H:15])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:12])[H:4].[C:9](=[C:10]=[C:11]([H:14])[H:15])[H:13],46.8608
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16])[H:8])([H:6])[H:7],50.6682
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[O:15]>>[C:0]([c:1]1[c:2][c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:10][O:15],90.9739672
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]1([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]1([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:11],52.7602
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([C:11](=[C:12]([H:21])[H:22])[H:20])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:16])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])[C:11](=[C:12]([H:21])[H:22])[H:20])[H:15])([H:13])[H:14],-0.4184
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([C:19]([S:20][H:25])[H:24])([H:21])([H:22])[H:23]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:19]([C:18]([H:21])([H:22])[H:23])([S:20][H:25])[H:24],22.1752
